US06180635B2
a) 4,4,4-Trimethoxybutyl para-toluenethiosulphonate
A suspension of para-toluenethiosulphonic acid potassium salt (8.77 g), trimethyl 4-bromoorthobutyrate (8.00 g) and 18-crown-6 (10.24 g) in anhydrous tetrahydrofuran (60 ml) was ultrasonicated for 5 minutes then stirred at room temperature for 3 days. The mixture was poured into saturated aqueous sodium bicarbonate solution (200 ml) and extracted with ether (2×200 ml). The organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give the subtitle compound (10.52 g) as an oil.

reactant | para-toluenethiosulphonic acid potassium salt | 8.77 g | [K+].C1(=CC=C(C=C1)S(=O)([O-])=S)C
reactant | trimethyl 4-bromoorthobutyrate | 8.00 g | COC(CCCBr)(OC)OC | C7H15BrO3
reactant | 18-crown-6 | 10.24 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4,4,4-Trimethoxybutyl para-toluenethiosulphonate | 10.52 g | C1(=CC=C(C=C1)S(=O)(OCCCC(OC)(OC)OC)=S)C | C14H22O5S2
